US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2-nitro-4-methoxyaniline to yield 2-[(2-nitro-4-methoxyphenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2-nitro-4-methoxyaniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)OC | C7H8N2O3
product | 2-[(2-nitro-4-methoxyphenyl)amino]phenylacetic acid | [N+](=O)([O-])C1=C(C=CC(=C1)OC)NC1=C(C=CC=C1)CC(=O)O | C15H14N2O5
